US07291631B2
To a solution of 2,3-dimethyl-5-trifluoromethyl-pyridine 1-oxide (0.620 g, 3.24 mmol) in CH2Cl2 (20 mL) was added TFAA (1.36 g, 6.48 mmol) at room temperature. After the mixture was stirred at room temperature for 3 h, brine (5 mL) and K2CO3 (20 mL) were added. The mixture was stirred at room temperature for 1 h and then extracted with CH2Cl2 (3×20 mL). The extracts were combined and dried over Na2SO4. After filtration the solvent was removed, and the residue was purified on silica gel column (4:1, CH2Cl2/Et2O), affording (2,3-dimethyl-5-trifluoromethyl-pyridin-2-yl)-methanol as a pale yellow oil (0.300 g, 48%).

reactant | 2,3-dimethyl-5-trifluoromethyl-pyridine 1-oxide | 3.24 mmol, 0.620 g | CC1=[N+](C=C(C=C1C)C(F)(F)F)[O-] | C8H8F3NO
reactant | TFAA | 6.48 mmol, 1.36 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | K2CO3 | 20 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 5 mL | [Cl-].[Na+].O
product | (2,3-dimethyl-5-trifluoromethyl-pyridin-2-yl)-methanol | 0.300 g, 48% | CC1(NC=C(C=C1C)C(F)(F)F)CO | C9H12F3NO
